US04994618
Preparation of 3-(m-tolyloxy)-1,2-epoxypropane
To a solution of 50 g (1.25 mol) of NaOH in 1200 ml H2O was added 108 g (1 mol) of m-cresol freshly distilled and at 15° C. in one lot 117ml (1.5 mol) of epichlorohydrin. The emulsion was stirred at room temperature for 16 hours in a creased flask. The product was taken up in 1000 ml of toluene and washed with 500 ml water. Distillation yielded 135.7 g=82% of product, bp 61° C. (0.05 mm).

reactant | NaOH | 1.25 mol, 50 g | [OH-].[Na+]
reactant | m-cresol | 1 mol, 108 g | C1=C(C=CC=C1O)C | C7H8O
reactant | epichlorohydrin | 1.5 mol, 117ml | C(Cl)C1CO1 | C3H5ClO
solvent | H2O | 1200 ml | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(m-tolyloxy)-1,2-epoxypropane | 82% | C1(=CC(=CC=C1)OCC1CO1)C | C10H12O2
